US04517195
(2-Benzoyl-1H-pyrrol-1-yl)-methyl-carbamic acid, ethyl ester
(2-Benzoyl-1H-pyrrol-1-yl)-carbamic acid, ethyl ester (18.5 g, 71.6 mmol) was combined with sodium carbonate (16.0 g, 157 mmol) and methyl iodide (13.2 g, 93 mmol) in 100 ml of dimethylformamide. The resulting slurry was stirred at ambient temperature for 20 hours and then at 75° C. for 2 hours. This reaction mixture was poured into 300 ml of crushed ice and extracted with four 200 ml portions of ether. The combined extracts were washed with water, dried over MgSO4, filtered and evaporated to an oil which was purified by HPLC (silica gel, 15% hexane/DCM). The resulting material was recrystallized from ether-hexane to give 18.4 g (94%) of cubes, m.p. 50°-52°.

reactant | (2-Benzoyl-1H-pyrrol-1-yl)-carbamic acid, ethyl ester | 71.6 mmol, 18.5 g | C(C1=CC=CC=C1)(=O)C=1N(C=CC1)NC(OCC)=O | C14H14N2O3
reactant | sodium carbonate | 157 mmol, 16.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl iodide | 93 mmol, 13.2 g | CI | CH3I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (2-Benzoyl-1H-pyrrol-1-yl)-methyl-carbamic acid, ethyl ester | C(C1=CC=CC=C1)(=O)C=1N(C=CC1)N(C(OCC)=O)C | C15H16N2O3
